US07041690B2
A suspension of 4-(2-chlorophenoxy)benzaldehyde-(0.193 g, 0.83 mmol, 2-hydroxy hippuric acid (0.147 g, 0.75 mmol) and sodium acetate (0.08 g, 0.975 mmol) in acetic anhydride (0.5 mL) is heated to 60° C. on an orbital shaker for one hour and is cooled to room temperature. The reaction mixture is concentrated under reduced pressure at 45° C. to provide an orange solid. The solid is washed with ice water (150 mL) and heptane (100 mL) and dried under vacuum at 40° C. to provide 0.32 g 2-{(4Z)-4-[4-(2-chlorophenoxy)benzylidene]-5-oxo-4,5-dihydro-1,3-oxazol-2-yl}phenyl acetate.

reactant | 4-(2-chlorophenoxy)benzaldehyde- | ClC1=C(OC2=CC=C(C=O)C=C2)C=CC=C1 | C13H9ClO2
reactant | 2-hydroxy hippuric acid | 0.75 mmol, 0.147 g | OC1=C(C(NCC(=O)O)=O)C=CC=C1 | C9H9NO4
reactant | sodium acetate | 0.975 mmol, 0.08 g | C(C)(=O)[O-].[Na+]
solvent | acetic anhydride | 0.5 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-{(4Z)-4-[4-(2-chlorophenoxy)benzylidene]-5-oxo-4,5-dihydro-1,3-oxazol-2-yl}phenyl acetate | 0.32 g | C(C)(=O)OC1=C(C=CC=C1)C=1OC(/C(/N1)=C/C1=CC=C(C=C1)OC1=C(C=CC=C1)Cl)=O | C24H16ClNO5
